* C:\Documents and Settings\Michael Walsh\My Documents\SIMetrix\ReceiverOpAmp\ReceiverOpAmp_2k_V003.sxsch
*#SIMETRIX
X1 R6_P R3_P VCC 0 PRE_AMP_OUT TL072 pinnames: inp inn vsp vsn out
V1 VCC 0 9
X2 R2_P R8_P VCC 0 X2_out TL072 pinnames: inp inn vsp vsn out
V2 ANT 0 AC 100u 0
R1 R2_P 0 1Meg
R2 R2_P R2_N 22Meg
R3 R3_P R3_N 1K
R4 PRE_AMP_OUT R3_P 22k
R5 VCC R2_P 1Meg
R6 R6_P R2_N 4.7k
R7 PRE_AMP_OUT R12_P 100
R8 R8_P R12_P 47k
R9 X2_out R8_P 1Meg
R10 PHONO_OUT C7_P 100
R11 PHONO_OUT 0 1Meg
R12 R12_P R12_N 100k
C1 R2_N ANT 1u  
C2 R2_N 0 4.7p  
C3 R3_N 0 200n  
C4 VCC 0 100u  
C5 R12_N 0 1u  
C6 R2_P 0 1u  
C7 C7_P X2_out 1u  
C8 PRE_AMP_OUT R3_P 1.5n  
C9 X2_out R8_P 20p  
.GRAPH PHONO_OUT curveLabel= PHONO_OUT nowarn=true ylog=auto xlog=auto 
.GRAPH PRE_AMP_OUT curveLabel= PRE_AMP_OUT nowarn=true ylog=auto xlog=auto 
.GRAPH ANT curveLabel= ANT nowarn=true ylog=auto xlog=auto 
.AC DEC 25 1 1Meg

